US06307058B1
The addition of octadecanol to N-carbamylmaleimide under the conditions of Example G afforded a 97% yield of octadecyl maleurate. M.P.: 109°-11° C. (dec.); 1H NMR (CDCl3): δ10.5 (brs, 1H), 8.2 (br s, 1H), 6.3 (m, 2H), 5.4 (br s, 1H), 4.2 (t, 2H), 1.6 (m, 2H), 1.2 (m, 30H), 0.9 (t, 3H); HPLC (80% CH3CN/H2O, C18): Rt=12.8 minutes.

reactant | octadecanol | C(CCCCCCCCCCCCCCCCC)O | C18H38O
reactant | N-carbamylmaleimide | C(N)(=O)N1C(C=CC1=O)=O | C5H4N2O3
product | octadecyl maleurate | 97% yield | C(\C=C/C(NC(N)=O)=O)(=O)OCCCCCCCCCCCCCCCCCC | C23H42N2O4
